* PSpice Model Editor - Version 16.2.0
*$
* LM5113
*****************************************************************************
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: LM5113
* Date: 24SEP2015
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: 
*
* Model Version: Final 4.10
*
*****************************************************************************
*
* Updates: 4.0 changed internal switch off resistance for convergence and CL, EPC 
* compatibility
* 4.1 changed the diode models used for bootstrap so VSW goes low during td
*
* Final 4.10
* Release to Web.
*
*****************************************************************************
.SUBCKT LM5113_TRANS HOH HOL HB HI HS LI LOH LOL VDD VSS PARAMS:  thplh=28n
+ tlphl=26.5n thphl=26.5n tlplh=28n
X_U2         N16504357 N16504353 UVLOHI AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=.5
V_V4         N16504667 0 0.4
X_U4         N16504731 UVLOHI N16505013 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=.5
R_R2         VSS HI  200k  
V_V1         N16504493 VSS 1.8
X_U11         N16505013 N16560491 BUFFER_PS PARAMS: VHI=1 VLO=0 VTHRESH=500E-3
+  TPLH={Thplh-4n} TPHL={Thphl-4n} TR=1E-9 TF=1E-9
V_V2         N16504499 0 0.4
R_R1         VSS LI  200k  
X_U6         VDD HB d_d1 PARAMS:
X_U10         LI N16504493 N16504499 N16504721 COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U5         HI N16504661 N16504667 N16504357 COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
V_V3         N16504661 VSS 1.8
X_U3         N16504353 N16504721 UVLOLOW AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=.5
X_U12         UVLOLOW N16553845 BUFFER_PS PARAMS: VHI=1 VLO=0 VTHRESH=500E-3
+  TPLH={Thplh-2n} TPHL={Thphl-2n} TR=1E-9 TF=1E-9
C_C1         N16539498 N16539524  10p  
R_R5         N16546337 N16546363  100  
C_C3         HOH N16539498  10p  
M_M2         N16546407 N16546363 HOL HOL PMOS01           
C_C2         N16546407 N16546363  20p  
R_R4         HB N16539524  0.02  
R_R6         N16546407 HS  0.02  
E_E2         HOL N16546337 VALUE { IF(V(HI_ON, 0) > 0.5, -5, 5) }
E_E5         LO_ON VSS N16553845 VSS 1
E_E6         HI_ON VSS N16560491 VSS 1
C_C6         HOL N16546363  20p  
R_R3         N16539492 N16539498  50  
E_E1         N16539492 HOH VALUE { IF(V(HI_ON, 0) > 0.5, 5, -5) }
M_M1         N16539524 N16539498 HOH HOH NMOS01           
R_R8         VDD N16589880  0.02  
R_R9         N16552085 N16590570  100  
R_R7         N16548656 N16589854  50  
C_C7         N16590598 N16590570  20p  
R_R10         N16590598 VSS  0.02  
M_M3         N16589880 N16589854 LOH LOH NMOS01           
C_C8         LOL N16590570  20p  
C_C4         N16589854 N16589880  10p  
C_C5         LOH N16589854  10p  
M_M4         N16590598 N16590570 LOL LOL PMOS01           
E_E3         LOL N16552085 VALUE { IF(V(LO_ON, 0) > 0.5, -5, 5) }
E_E4         N16548656 LOH VALUE { IF(V(LO_ON, 0) > 0.5, 5, -5) }
V_V8         N16663585 0 3.2
V_V9         N16663591 0 0.2
V_V6         N16664106 0 3.8
X_U13         HB N166242400 d_d PARAMS:
E_E7         N16664150 0 VDD VSS 1
V_V5         N166242400 HS 5.3
X_U15         N16663629 N16663585 N16663591 N16504731 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
V_V7         N16664112 0 0.2
E_E8         N16663629 0 HB HS 1
X_U14         N16664150 N16664106 N16664112 N16504353 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
.ends
*$
.subckt d_d1 1 2
d1 1 2 dd1
.model dd1 d
+ is=1e-015
+ tt=1e-011
+ rs=1
+ n=0.05
.ends d_d1
*$
.model PMOS01 pmos
+ vto=-2
+ kp=1.11
+ lambda=0.001

.model NMOS01 nmos
+ vto=2
+ kp=0.267
+ lambda=0.001

.subckt d_d 1 2
d1 1 2 dd
.model dd d
+ is=1e-015
+ n=0.01
+ rs=0.01
+ tt=1e-011
.ends d_d


.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT INVERTER IN OUT  
EOUT OUT1 0 VALUE { IF( V(IN)<0.5,1,0) }
R1 OUT1 OUT 1
C1 OUT 0 10p
.ends INVERTER
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT BUFFER_PS A Y PARAMS: vhi=1 vlo=0 vthresh=500e-3 tplh=1e-9 tphl=1e-9 tr=1e-9 tf=1e-9
RA A 0 1e11
CA A 0 0.01pF
VS VSUP 0 DC 1
EBUF1 Ypp 0 VALUE={IF(V(A) > ({vthresh}), 1, 0)}
ROUTpp Ypp 0 1e11
XNSW1 OUTp Ypp 0 NSW_PS PARAMS: RONval={(tplh+1e-15)/(1e-12*0.693)} VTHval=0.5
XPSW1 OUTp Ypp VSUP PSW_PS PARAMS: RONval={(tphl+1e-15)/(1e-12*0.693)} VTHval=0.5
CDEL1 OUTp 0 1pF
ETHRESH Yp 0 VALUE={IF(V(OUTp) > 0.5, 1, 0)}
ROUTp Yp 0 1e11
XNSW2 OUTr Yp 0 NSW_PS PARAMS: RONval={(tf+1e-15)/(1e-12*2.3)} VTHval=0.5
XPSW2 OUTr Yp VSUP PSW_PS PARAMS: RONval={(tr+1e-15)/(1e-12*2.3)} VTHval=0.5
CDEL2 OUTr 0 1pF
EOUT OUTf 0 VALUE={V(OUTr)*({vhi} - {vlo})+{vlo}}
RDR OUTf Y  1000
RO Y 0 1e11
.ENDS BUFFER_PS
*$
.SUBCKT NSW_PS D G S PARAMS: RONval=10k VTHval=0.7 VCHARval=0.01 CGval=0.01pF CDval=0.01pF CSval=0.01pf
RDDUM D 0 1e11
RSDUM S 0 1e11
RGDUM G 0 1e11
CG G D {CGval}
CD D S {CDval}
CS G S {CSval}
***EEXP F1 0 VALUE={LIMIT(((V(G,S)-VTHval)/VCHARval),-80,80)} 
Etest test 0 VALUE={IF(V(D) > V(S), V(G,S), V(G,D))}
GOUT D S VALUE={V(D,S)/(RONval*(1+EXP(-LIMIT(((V(test)-VTHval)/VCHARval),-80,80))))}
.ENDS NSW_PS
*$
.SUBCKT PSW_PS D G S PARAMS: RONval=10k VTHval=0.7 VCHARval=0.01 CGval=0.01pF CDval=0.01pF 
RDDUM D 0 1e11
RSDUM S 0 1e11
RGDUM G 0 1e11
CG G D {CGval}
CD D S {CDval}
Etest test 0 VALUE={IF(V(S) > V(D), V(S,G), V(D,G))}
GOUT S D VALUE={V(S,D)/(RONval*(1+EXP(-LIMIT(((V(test)-VTHval)/VCHARval),-80,80))))}
.ENDS PSW_PS
*$
.SUBCKT FALLING_DELAY IN OUT PARAMS: DELAY=100n VDD=1 VSS=0 VTHRESH=0.5
X_U1         INT OUT BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH=
+ {VTHRESH}
R_R1         IN INT  {DELAY/(0.693 * 1E-9)}  
C_C1         0 INT  1n  
D_D1         IN INT DD 
.MODEL DD D( IS=1F N=0.01 TT = 10p )
.ENDS FALLING_DELAY
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$